Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / ibuprofen / Penicillins / shellfish derived / Dairy 
Aid
 
Attending: ___.
 
Chief Complaint:
R Toe Pain, Abnormal MRI 
 
Major Surgical or Invasive Procedure:
Right ___ Toe Amputation ___

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ with a PMH of DM1, asthma/COPD, 
CM (unknown EF) who was transferred from ___ with 
MRI findings c/f right toe osteomyelitis iso subacute injury to 
right forth toe > 1 week ago.  
 Pt has a history of MRSA abscess on right ___ toe ___ years 
ago that required amputation. She had an additional episode of 
cellulitis of her right ___ toe that was treated with 6 weeks of 
antibiotics (likely cephalosporin), last dose ___.  
 Over one week ago patient tripped and bumped her right ___ toe 
into the wall. She felt severe pain ___ her right toe that 
progressed but did not want to go to the hospital because she 
was hoping it would get better and also knew it would likely 
require a several day admission at minimum. She wrapped her toe 
with dry gauze. She endorsed subjective chills but no fevers. 
Her pain continued to progress so she went to ___ 
where she underwent an MRI which was notable for right toe 
osteomyelitis. She received a dose of vancomycin/ceftriaxone and 
was transferred to ___.  
 ___ the ED, initial VS were: ___ pain 98.6 90 104/54 18 96% RA  

 Exam notable for: Right leg is erythematous to mid shin, tender 
to touch up to ankle. Right fourth toe is black, draining white 
fluid. Pulses nonpalpable.  
 Labs showed:  
 1) Coags: INR 1.2, PTT 28.3  
 2) CBC: WBC 8.7, Hb 10.6, plt 288  
 3) BMP: Na 136, K 3.5, Cl 95, HCO3 25, BUN 17, Cr 1.1  
 Imaging showed:  
 1) Foot X-ray: erosive changes c/f OM of toe and metatarsals  
 Received:  
 ___ 00:54 IV Morphine Sulfate 2 mg  
 ___ 01:48 IV MetroNIDAZOLE 500 mg  
 ___ 02:47 IV Ciprofloxacin 400 mg  
 ___ 03:28 IV Morphine Sulfate 2 mg  
 Podiatry was consulted: recommended continuing AB for presumed 
OM, obtaining ABI/PVRs, betadine dressing to toe  
 Transfer VS were: ___ 91 ___ 95% RA  
 On arrival to the floor, patient reports persistent right toe 
pain.  
 REVIEW OF SYSTEMS:  
 (+)PER HPI  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 Anxiety/Depression  
 Heart failure  
 Gout  
 DM1  
 GERD  
 Arthritis  
 Neuropathy  
 Cataracts  
 Thyroid Goiter  
 Asthma/COPD  
 Benign rectal polyps  
 Depression/Anxiety/PTSD  
 Shingles ___  
 PAST SURGICAL HISTORY  
 L Carpal Tunnel ___  
 Rt shoulder surgery ___  
 Cholecystectomy ___  
 Hysterectomy ___  
 Tonsillectomy ___  

 
Social History:
___
Family History:
Mother- sciatica, allergies  
 Father- heart disease, skin cancer  
 Son- testicular cancer  
 Uncle- colon cancer  
 Sister- skin cancer  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
 VS: 97.9 PO 112 / 69 R Sitting 88 16 98 RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MM dry  
 NECK: supple, thick, no JVD appreciated  
 HEART: RRR, S1 + S2, ___ SEM  
 LUNGS: CTAB, no crackles/wheezes  
 ABDOMEN: SNTND, +BS, no rebound/guarding  
 EXTREMITIES: WWP, PPP, no ___ edema  
 NEURO: A&Ox3, CNII-XII intact, ___ strength ___ UE and ___  
 SKIN: no rashes/lesions  

DISCHARGE PHYSICAL EXAM:
VS: 98.0 120 / 68 67 18 94 Ra 
GENERAL: well developed female sitting up ___ a chair. NAD.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM, poor dentition
NECK: supple, thick, no JVD appreciated  
HEART: RRR, S1 + S2, ___ SEM  
LUNGS: CTAB, no crackles/wheezes  
ABDOMEN: SNTND, +BS, no rebound/guarding  
EXTREMITIES: Right foot wrapped this AM. Mild abrasion of R ___
toe w/ scab and w/o surrounding erythema. Mild lower extremity
edema of R leg.  
NEURO: A&Ox3, moving all four extremities spontaneously
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:58AM BLOOD WBC-8.7 RBC-3.42* Hgb-10.6* Hct-31.1* 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.5 RDWSD-41.3 Plt ___
___ 12:58AM BLOOD Neuts-60.2 ___ Monos-9.4 Eos-2.1 
Baso-0.5 Im ___ AbsNeut-5.24 AbsLymp-2.37 AbsMono-0.82* 
AbsEos-0.18 AbsBaso-0.04
___ 12:58AM BLOOD ___ PTT-28.3 ___
___ 12:58AM BLOOD Glucose-131* UreaN-17 Creat-1.1 Na-136 
K-3.5 Cl-95* HCO3-25 AnGap-16
___ 12:58AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.6
___ 12:54AM BLOOD Lactate-1.8

DISCHARGE LABS:
===============
___ 05:28AM BLOOD WBC-7.5 RBC-3.01* Hgb-9.1* Hct-28.5* 
MCV-95 MCH-30.2 MCHC-31.9* RDW-13.1 RDWSD-44.7 Plt ___
___ 05:28AM BLOOD Glucose-101* UreaN-26* Creat-1.0 Na-137 
K-3.9 Cl-94* HCO3-32 AnGap-11
___ 05:28AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.8

MICROBIOLOGY:
=============
___ 12:35 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 7:50 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
___ 2:35 pm TISSUE      RIGHT 4 TH TOE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH OF TWO COLONIAL 
MORPHOLOGIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      ENTEROCOCCUS SP..    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------              <=2 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
PENICILLIN G----------                4 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------                1 S

   ANAEROBIC CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         Mixed bacteria are present, which may include anaerobes 
and/or
         facultative anaerobes. Bacterial growth was screened 
for the
         presence of B.fragilis, C.perfringenes, and C.septicum. 
None of
         these species was found. 

 
 
___ 9:07 am BLOOD CULTURE      Source: Line-PICC. 

   Blood Culture, Routine (Pending): 

 
 
___ 10:40 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
 
___ 9:50 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
========
___ SECOND OPINION MRI MSK RIGHT FOOT

IMPRESSION:  
  
1.  Finding most suggestive of osteomyelitis of the fourth toe.  
There has 
been interval amputation of this toe. 
2.  Destruction of the head of the second metatarsal and base of 
the second 
toe proximal phalanx with T1 marrow replacement and apparent 
prominent 
enhancement is concerning for osteomyelitis ___ the proper 
clinical setting 
particularly given the near normal appearance of this joint on 
x-ray from ___ and confirmed osteomyelitis of the fourth toe.  
Alternative 
considerations include a destructive inflammatory arthropathy or 
destruction 
___ a neuropathic foot.  Nuclear medicine study could be 
considered for further 
evaluation if clinically indicated. 
3.  Destruction and T1 marrow replacement across the third toe 
PIP joint could 
represent sequela of septic arthritis given the relative normal 
appearance of 
the joint on x-ray from ___ and confirmed 
osteomyelitis of the 
fourth toe.  Alternative considerations include a destructive 
inflammatory 
arthropathy or destruction due to chronic fracture. 
4.  Flattening of the head of the ___ third metatarsal with bone 
marrow edema 
and mild T1 marrow replacement could represent a more of a 
chronic remodeling 
process such ___ infraction, however infection could have a 
similar 
appearance. 
5.  Erosive change along the plantar lateral aspect of the head 
of the first 
metatarsal may be less likely to be infectious as there is 
minimal surrounding 
bone marrow edema. 
6.  Area of soft tissue nonenhancement along the plantar lateral 
aspect of the 
forefoot underlying the heads of the third and fourth 
metatarsals likely 
represents poor tissue perfusion. 

___ UNILAT LOWER EXT VEINS
IMPRESSION: 
 
No evidence of deep venous thrombosis ___ the right lower 
extremity veins.
 

 
Brief Hospital Course:
This is a ___ year old female with past medical history of type 
1 diabetes, COPD, CHF NOS admitted ___ with R ___ toe soft 
tissue infection and acute osteomyelitis failing to improve on 
antibiotics, now status post ___ toe amputation, pathology with 
clean margins, discharged home 

# Acute R ___ toe osteomyelitis and soft tissue infection
# Infection with enterococcus and MSSA 
Patient was transferred from ___ after presenting 
with worsening R toe ulcer with an MRI concerning for 
osteomyelitis.  Labs were notable for elevated CRP to 85.4.  
Patient was seen by podiatry service, underwent ABI/PVR did not 
show evidence of lower extremity ischemia at rest. Given ___ 
toe osteomyelitis, patient underwent amputation of R ___ toe 
with podiatry without complications.  OR cultures grew MSSA, 
enterococcus and mixed bacterial anaerobic flora. Patient was 
seen by ID and treated with an IV vancomycin, cefepime 
(transitioned to cefazolin), metronidazole (D1 = ___.  
Subsequent pathology returned showing negative margins.  
Patient completed an 8 day course of IV antibiotics per ID.  Of 
note, MRI foot also showed abnormalities ___ the ___ and ___ R 
toes, that were felt to likely be reactive to recent trauma 
that patient reported (although infection could not be ruled 
out).  Podiatry recommended outpatient follow-up with 
consideration of reimaging to ensure resolution.  Discharged 
with 3 day supply of prn oxycodone.  

# Generalized Anxiety Disorder 
: Patient with significant anxiety during admission, greater 
than baseline. Medications confirmed with her psychiatrist, Dr. 
___, ___ ___. She was continued on Bupropion, BusPIRone, 
fluoxetine

# Gout 
Continued Allopurinol 

# Chronic CHF NOS
Continued bumetanide, sprinolactone, metoprolol

# Type 2 diabetes 
Continued glargine, humalog sliding scale and bydureon. 

TRANSITIONAL ISSUES
=====================
- Patient discharged with follow up with podiatry for wound 
healing and evaluation for new ulcers. 
- Would consider ensuring patient follow up with outpatient 
psych for management of anxiety, which seems to have a 
significant impact on her life
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation BID;PRN 
2. Spironolactone 50 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. BusPIRone 5 mg PO TID 
5. FLUoxetine 60 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU BID 
7. HydrOXYzine 25 mg PO TID 
8. Klor-Con M20 (potassium chloride) 60 meq oral TID 
9. Glargine 80 Units Breakfast
Glargine 50 Units Bedtime
Insulin SC Sliding Scale using UNK Insulin
10. Methocarbamol 750 mg PO TID 
11. Metolazone 2.5 mg PO QD:PRN edema 
12. Omeprazole 20 mg PO DAILY 
13. Metoprolol Succinate XL 25 mg PO DAILY 
14. BuPROPion (Sustained Release) 200 mg PO QAM 
15. Bydureon (exenatide microspheres) 2 mg subcutaneous Qweek 
16. Bumetanide 2 mg PO TID 
17. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q6H PRN Disp #*10 
Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  albuterol sulfate 90 mcg/actuation inhalation BID;PRN  
4.  Allopurinol ___ mg PO DAILY  
5.  Bumetanide 2 mg PO TID  
6.  BuPROPion (Sustained Release) 200 mg PO QAM  
7.  BusPIRone 5 mg PO TID  
8.  Bydureon (exenatide microspheres) 2 mg subcutaneous Qweek  
9.  FLUoxetine 60 mg PO DAILY  
10.  Fluticasone Propionate NASAL 1 SPRY NU BID  
11.  HydrOXYzine 25 mg PO TID  
12.  Glargine 80 Units Breakfast
Glargine 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
13.  Metoprolol Succinate XL 25 mg PO DAILY  
14.  Omeprazole 20 mg PO DAILY  
15.  Spironolactone 50 mg PO DAILY  
16. HELD- Methocarbamol 750 mg PO TID  This medication was held. 
Do not restart Methocarbamol until you discuss with your primary 
care doctor. 
17. HELD- Metolazone 2.5 mg PO QD:PRN edema  This medication was 
held. Do not restart Metolazone until you discuss with your 
primary care doctor. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Acute R ___ toe osteomyelitis and soft tissue infection
# Infection with enterococcus and MSSA 
# Diabetes Mellitus type 2
# COPD
# Chronic CHF NOS 
# Generalized anxiety disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___.

WHY YOU WERE ADMITTED TO THE HOSPITAL:
=======================================
- You had an ulcer on your right foot and toe that was 
concerning for osteomyelitis, a bone infection. 

WHAT WAS DONE WHILE YOU WERE ___ THE HOSPITAL:
==============================================
- You were seen by the Podiatry team. You had an amputation of 
your right toe to remove the infected bone.
- You received antibiotics and finished your antibiotics ___ the 
hospital.  

WHAT YOU NEED TO DO WHEN YOU GO HOME:
======================================
- Please follow up with your primary care doctor. 
- Please follow up with our podiatry surgery team at ___ 
___. After that, you may follow up with your podiatrist that 
is closer to your home. 
- Please continue to take your medications as prescribed. 

It was a pleasure taking care of you!

Sincerely, 
Your ___ Care Team

 
Followup Instructions:
___